US04906666
(h) S-[4-(3-{1-Hydroxyhexyl}-phenoxy)-but-2-enyl]-3-mercaptopropionic acid
9.15 ml. (0.105 mole) 3-mercaptopropionic acid are dissolved in 70 ml. methanol and stirred with 315 ml. 1M sodium methylate solution for 10 minutes at ambient temperature under an atmosphere of nitrogen. Subsequently, 19.79 g. (0.07 mole) 1-chloro-4-[3-(1-hydroxyhexyl)-phenoxy]-but-1-ene in 70 ml. methanol are added dropwise thereto in the course of 15 minutes. The reaction mixture is further stirred for 3 hours at ambient temperature and the solvent is then stripped off. The residue is taken up in diethyl ether and extracted several times with 2M aqueous sodium hydroxide solution. The aqueous solution is acidified with 2M hydrochloric acid and the desired compound is extracted with methylene chloride. After drying and stripping off the solvent, there are obtained 22.5 g. (91% of theory) of the title compound in the form of an oil.

reactant | 3-mercaptopropionic acid | 0.105 mole | SCCC(=O)O | C3H6O2S
reactant | methanol | CO | CH4O
reactant | sodium methylate | 1M | C[O-].[Na+]
reactant | 1-chloro-4-[3-(1-hydroxyhexyl)-phenoxy]-but-1-ene | 0.07 mole | ClC=CCCOC1=CC(=CC=C1)C(CCCCC)O | C16H23ClO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | S-[4-(3-{1-Hydroxyhexyl}-phenoxy)-but-2-enyl]-3-mercaptopropionic acid | OC(CCCCC)C=1C=C(OCC=CCSCCC(=O)O)C=CC1 | C19H28O4S
